US06319920B1
(R,R)-N-[2-(4-Nitrophenyl)-1-methylethyl]-N-propyl-(1-phenylethyl)amine hydrochloride was dissolved in ethanol (100 ml) and water (16 ml). To this solution was added iron powder (2.44 g) and ammonium formate (2.25 g). The mixture was heated at reflux for 3 hours, cooled to room temperature and filtered through a glass fiber filter. The filtrate was evaporated in vacuo, and the residue was partitioned between ethyl acetate and dilute sodium hydroxide. The organic layer was dried over sodium sulfate, filtered, and the solvent removed in vacuo to give (R,R)-N-[2-(4-aminophenyl)-1-methylethyl]-N-propyl-(1-phenylethyl)amine as a yellow syrup (2.9 g).

reactant | (R,R)-N-[2-(4-Nitrophenyl)-1-methylethyl]-N-propyl-(1-phenylethyl)amine hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)C[C@@H](C)N(CCC)[C@H](C)C1=CC=CC=C1
reactant | ammonium formate | 2.25 g | C(=O)[O-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 16 ml | O | H2O
catalyst | iron | 2.44 g | [Fe] | Fe
product | (R,R)-N-[2-(4-aminophenyl)-1-methylethyl]-N-propyl-(1-phenylethyl)amine | 2.9 g | NC1=CC=C(C=C1)C[C@@H](C)N(CCC)[C@H](C)C1=CC=CC=C1 | C20H28N2
